US07863293B2
COMPOUND 362: N-{3-[(3,5-Dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-acetamide (HBr salt)
To a solution of N1-(3,5-Dimethyl-pyridin-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-propane-1,3-diamine (78 mg, 0.23 mmol) in CH2Cl2 (2.5 mL) was added Et3N (100 μL, 0.72 mmol) followed by Ac2O (40 μL, 0.43 mmol). The resultant solution was stirred at room temperature for 45 minutes. The mixture was diluted with CH2Cl2 (20 mL), washed with brine (3×5 mL), dried (Na2SO4), and concentrated. Purification of the crude material by column chromatography on silica gel (20:1:1 CH2Cl2-MeOH—NH4OH) provided 60 mg (71%) of the free base of the title compound as a white foam. Conversion of the foam to the HBr salt gave COMPOUND 362 as a white solid. 1H NMR (D2O) δ 1.42-1.47 (m, 2H), 1.71-1.80 (m, 4H), 1.99-2.17 (m, 2H), 2.32-2.39 (m, 2H), 2.41 (s, 3H), 2.45 (s, 3H), 2.62-2.72 (m, 1H), 2.92-2.97 (m, 4H), 4.11 (d, 1H, J=17.1 Hz), 4.33 (d, 1H, J=17.1 Hz), 4.45 (dd, 1H, J=10.5, 5.7 Hz), 7.84 (dd, 1H, J=8.1, 5.4 Hz), 8.19 (s, 1H), 8.32 (d, 1H, J=8.1 Hz), 8.42 (s, 1H), 8.57 (d, 1H, J=5.4 Hz); 13C NMR (D2O) δ 17.13, 17.56, 20.45, 20.65, 22.17, 27.85, 28.05, 37.58, 49.78, 52.00, 61.10, 125.88, 136.64, 137.42, 137.79, 139.39, 140.75, 148.15, 148.73, 149.28, 151.16, 174.37; ES-MS m/z 367 (M+H). Anal. Calcd. For C22H30N4O.2.9HBr.3.7H2O: C, 39.57; H, 6.08; N, 8.39; Br, 34.70. Found: C, 39.62; H, 5.85; N, 8.04; Br, 34.70.

reactant | N1-(3,5-Dimethyl-pyridin-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-propane-1,3-diamine | 0.23 mmol, 78 mg | CC=1C(=NC=C(C1)C)CN(CCCN)C1CCCC=2C=CC=NC12 | C20H28N4
reactant | Et3N | 0.72 mmol, 100 μL | CCN(CC)CC | C6H15N
reactant | Ac2O | 0.43 mmol, 40 μL | CC(=O)OC(=O)C | C4H6O3
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-{3-[(3,5-Dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-acetamide | 60 mg, 71% | CC=1C(=NC=C(C1)C)CN(CCCNC(C)=O)C1CCCC=2C=CC=NC12 | C22H30N4O
